US04162246
Nonaethylene glycol bis[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]ether (Compound No. 169)
5.8 g of 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 5.3 g of nonaethylene glycol bis(2,3-epoxypropyl)ether and 0.1 g of potassium hydroxide were reacted in 100 ml of methanol, following substantially the same procedure as in Example 1. The desired Compound No. 169 was obtained in the form of a colourless, viscous liquid, having an Rf value of 0.38 on thin-layer chromatography on silica gel using a 2:1:0.03 by volume mixture of ethyl acetate, methanol and triethylamine as developing solvent.

reactant | 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 5.8 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1C)(C)C)C | C12H21N3O2
reactant | nonaethylene glycol bis(2,3-epoxypropyl)ether | 5.3 g | O1C(COCCOCCOCCOCCOCCOCCOCCOCCOCCOCC2CO2)C1 | C24H46O12
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | Nonaethylene glycol bis[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]ether | OC(COCCOCCOCCOCCOCCOCCOCCOCCOCCOCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C48H88N6O16
